US08497368B2
1-(3-((1-Methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethanone (70.4)
A solution of 6-(1-ethoxy-vinyl)-3-(1-methyl-1H-indazol-5-ylmethyl)-imidazo[1,2-b]pyridazine (50 mg, 0.15 mmol) and HCl (0.15 mL, 0.15 mmol) in 10 mL AcOH was heated at 50° C. for 3 hour. The solvent was removed under reduced pressure. The residue was diluted with water and adjusted the pH value of solution to around 8 with aqueous NaHCO3, extracted with DCM three times. Organic layers were combined, dried over Na2SO4 and concentrated. The crude product was used in the next step without purification (45 mg, 75%, 76% pure). LCMS (method A): [MH]+=306, tR=5.03 min.

reactant | 6-(1-ethoxy-vinyl)-3-(1-methyl-1H-indazol-5-ylmethyl)-imidazo[1,2-b]pyridazine | 0.15 mmol, 50 mg | C(C)OC(=C)C=1C=CC=2N(N1)C(=CN2)CC=2C=C1C=NN(C1=CC2)C | C19H19N5O
reactant | HCl | 0.15 mmol, 0.15 mL | Cl | ClH
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 1-(3-((1-Methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)ethanone | CN1N=CC2=CC(=CC=C12)CC1=CN=C2N1N=C(C=C2)C(C)=O | C17H15N5O
